US06492416B1
To a stirred solution of 1-{3-fluoro-4-(methylthio)phenyl}-2-phenyl-ethan-1-one (1.68 g) in 100 ml dry THF, was added portion-wise at 0° C. 60% oil dispersion of sodium hydride (270 mg). The reaction solution was stirred at the same temperature for 1 hour. Then 1.2 ml of α-bromo-isobutyryl cyanide diluted in 25 ml dry THF was added dropwise to the stirred solution at 0° C. The reaction mixture was stirred overnight while warming gradually to room temperature. The solution was concentrated in vacuo, to which was added 50 ml water. The aqueous solution was extracted with dichloromethane (50 ml×3). The organic layer was concentrated in vacuo and purified by column chromatography (hexane/ethylacetate=6:1) to give 1.21 g of 2,2-dimethyl-5-{3-fluoro-4-(methylthio)phenyl}-4-phenyl-3(2H)-furanone. NMR: δ1.55 (s, 6H), 2.48 (s, 3H), 7.26-7.39 (m, 7H), 7.67 (m, 1H), 7.81 (m, 1H). IR (cm−1): 1696, 1421, 1388, 1238.

reactant | 1-{3-fluoro-4-(methylthio)phenyl}-2-phenyl-ethan-1-one | 1.68 g | FC=1C=C(C=CC1SC)C(CC1=CC=CC=C1)=O | C15H13FOS
reactant | sodium hydride | 270 mg | [H-].[Na+]
reactant | α-bromo-isobutyryl cyanide | 1.2 ml | BrC(C(=O)C#N)(C)C | C5H6BrNO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2,2-dimethyl-5-{3-fluoro-4-(methylthio)phenyl}-4-phenyl-3(2H)-furanone | 1.21 g | CC1(OC(=C(C1=O)C1=CC=CC=C1)C1=CC(=C(C=C1)SC)F)C | C19H17FO2S
